### PR TITLE
Fix #218: restate extracted_1 with X ⊆ Λ hypothesis and prove finiteness

### LINKED ISSUE #218: False extracted goal in SpherePacking/ForMathlib/InvPowSummability.lean
After `extracted_1`, `False` may be proven as such (this was found by @Aristotle-Harmonic):

```lean
theorem infinite_box {d : ℕ} (hd : 0 < d) (b : Basis (Fin d) ℝ (EuclideanSpace ℝ (Fin d))) :
  ¬ {m | ∀ i, b.repr m i ∈ Set.Ico (-1 : ℝ) 1}.Finite := by
    -- Since the real numbers are infinite, there are infinitely many choices for each coordinate. We can construct an infinite sequence of distinct vectors in this set by varying one coordinate while keeping the others fixed.
    have h_infinite_seq : ∃ (seq : ℕ → EuclideanSpace ℝ (Fin d)), Function.Injective seq ∧ ∀ n, ∀ i, (b.repr (seq n) i) ∈ Set.Ico (-1) 1 := by
      -- We can construct such a sequence by choosing each coordinate to be a unique rational number in the interval [-1, 1).
      have h_seq : ∃ (seq : ℕ → ℝ), Function.Injective seq ∧ ∀ n, -1 ≤ seq n ∧ seq n < 1 := by
        exact ⟨ fun n => -1 + 1 / ( n + 2 ), fun n m hnm => by simpa using hnm, fun n => ⟨ by nlinarith [ one_div_mul_cancel ( by linarith : ( n + 2 : ℝ ) ≠ 0 ) ], by nlinarith [ one_div_mul_cancel ( by linarith : ( n + 2 : ℝ ) ≠ 0 ) ] ⟩ ⟩;
      obtain ⟨ seq, hseq₁, hseq₂ ⟩ := h_seq;
      refine' ⟨ fun n => b.repr.symm ( Finsupp.single ⟨ 0, hd ⟩ ( seq n ) ), _, _ ⟩ <;> aesop;
      · intro m n hmn;
        have := congr_arg ( fun x => b.repr x ⟨ 0, hd ⟩ ) hmn ; norm_num at this ; aesop;
      · rw [ Finsupp.single_apply ] ; aesop;
      · -- By definition of Finsupp.single, if i is not equal to ⟨0, hd⟩, then the value is 0, which is less than 1. If i is equal to ⟨0, hd⟩, then the value is seq n, which by hseq₂ is between -1 and 1. Therefore, in both cases, the value is less than 1.
        by_cases hi : i = ⟨0, hd⟩ <;> simp [hi, hseq₂];
    exact Set.infinite_of_injective_forall_mem h_infinite_seq.choose_spec.1 fun n => h_infinite_seq.choose_spec.2 n

noncomputable def b1 : Basis (Fin 1) ℝ (EuclideanSpace ℝ (Fin 1)) :=
  Basis.reindex (Pi.basisFun ℝ (Fin 1)) (Equiv.refl _)

theorem counterexample_extracted_1 :
  let Λ := Submodule.span ℤ (Set.range b1);
  let bℤ := (Module.Free.chooseBasis ℤ Λ).reindex (ZLattice.basis_index_equiv Λ);
  let bℝ := Basis.ofZLatticeBasis ℝ Λ bℤ;
  let D := {m | ∀ (i : Fin 1), (bℝ.repr m) i ∈ Set.Ico (-1) 1};
  ¬ Finite D := by
    bound;
    -- Since these two sets are not equal, we can conclude that the set of vectors in $S$ is infinite.
    have h_infinite : Set.Infinite {m : EuclideanSpace ℝ (Fin 1) | ∀ i : Fin 1, (bℝ.repr m) i ∈ Set.Ico (-1) 1} := by
      -- Apply the fact that the set of vectors in $S$ is infinite.
      apply infinite_box; norm_num;
    exact h_infinite <| Set.finite_coe_iff.mp a

example : False := by
  have := @extracted_1
  contrapose! this
  use 1;
  refine' ⟨ _, _, _, _, _ ⟩;
  exact Set.univ;
  exact Submodule.span ℤ ( Set.range ( Pi.basisFun ℝ ( Fin 1 ) ) );
  all_goals try infer_instance;
  convert counterexample_extracted_1;
  aesop
```

Aristotle also offered that the statement becomes true if you add `(hX : X ⊆ Λ)`, though I'm not sure if this is useful to the author:

```lean
theorem isBounded_basis_box {d : ℕ} (b : Basis (Fin d) ℝ (EuclideanSpace ℝ (Fin d))) :
  Bornology.IsBounded {m | ∀ i, b.repr m i ∈ Set.Ico (-1 : ℝ) 1} := by
    -- Since the norm of each basis vector is 1, the norm of m is bounded by the sum of the absolute values of its coordinates.
    have h_norm_bound : ∀ m : EuclideanSpace ℝ (Fin d), (∀ i, (b.repr m) i ∈ Set.Ico (-1) 1) → ‖m‖ ≤ ∑ i, ‖b i‖ := by
      intro m hm;
      -- By definition of $m$, we can write it as a linear combination of the basis vectors.
      have h_decomp : m = ∑ i, (b.repr m i) • b i := by
        -- By definition of the basis representation, we have m = ∑ i, (b.repr m i) • b i.
        apply Eq.symm; exact (by
        -- By definition of the basis representation, we have m = ∑ i, (b.repr m i) • b i. This follows from the fact that the basis is a basis.
        apply b.sum_repr);
      exact h_decomp ▸ le_trans ( norm_sum_le _ _ ) ( Finset.sum_le_sum fun i _ => by simpa [ norm_smul ] using mul_le_mul_of_nonneg_right ( abs_le.mpr ⟨ hm i |>.1, hm i |>.2.le ⟩ ) ( norm_nonneg _ ) );
    -- Since the sum of the norms of the basis vectors is finite, the set of m's is bounded by this sum.
    have h_sum_finite : ∃ C, ∀ m : EuclideanSpace ℝ (Fin d), (∀ i, (b.repr m) i ∈ Set.Ico (-1) 1) → ‖m‖ ≤ C := by
      exact ⟨ _, h_norm_bound ⟩;
    exact isBounded_iff_forall_norm_le.mpr ⟨ h_sum_finite.choose, h_sum_finite.choose_spec ⟩

theorem lattice_inter_bounded_finite {d : ℕ} (Λ : Submodule ℤ (EuclideanSpace ℝ (Fin d))) [DiscreteTopology Λ] {S : Set (EuclideanSpace ℝ (Fin d))} (hS : Bornology.IsBounded S) : Set.Finite (Λ ∩ S) := by
  -- Since S is bounded, there exists some R such that S is contained within the ball of radius R centered at the origin.
  obtain ⟨R, hR⟩ : ∃ R, ∀ x ∈ S, ‖x‖ ≤ R := by
    exact hS.exists_norm_le;
  by_contra h_inf;
  have h_discrete : ∃ r > 0, ∀ x y : EuclideanSpace ℝ (Fin d), x ∈ Λ → y ∈ Λ → x ≠ y → ‖x - y‖ ≥ r := by
    have h_discrete : ∀ x : Λ, ∃ r > 0, ∀ y : Λ, y ≠ x → ‖y - x‖ ≥ r := by
      -- Since Λ is discrete, for any x in Λ, there exists an r > 0 such that the ball of radius r around x contains no other points of Λ.
      have h_discrete : ∀ x : Λ, ∃ r > 0, ∀ y : Λ, y ≠ x → ‖y - x‖ ≥ r := by
        intro x
        have h_discrete : DiscreteTopology Λ := by
          infer_instance
        rw [ discreteTopology_iff_singleton_mem_nhds ] at h_discrete;
        rcases Metric.mem_nhds_iff.mp ( h_discrete x ) with ⟨ r, hr₀, hr ⟩;
        exact ⟨ r, hr₀, fun y hy => not_lt.1 fun hlt => hy <| hr <| mem_ball_iff_norm.2 hlt ⟩;
      exact h_discrete;
    obtain ⟨ r, hr₀, hr ⟩ := h_discrete 0;
    exact ⟨ r, hr₀, fun x y hx hy hxy => by simpa [ sub_ne_zero.mpr hxy ] using hr ⟨ x - y, Submodule.sub_mem _ hx hy ⟩ ( by simpa [ sub_ne_zero.mpr hxy ] ) ⟩;
  obtain ⟨ r, hr₀, hr ⟩ := h_discrete;
  -- Since S is bounded, we can cover it with a finite number of balls of radius r/2.
  obtain ⟨T, hT⟩ : ∃ T : Finset (EuclideanSpace ℝ (Fin d)), ∀ x ∈ S, ∃ y ∈ T, ‖x - y‖ < r / 2 := by
    have h_compact : IsCompact (Metric.closedBall (0 : EuclideanSpace ℝ (Fin d)) R) := by
      exact ProperSpace.isCompact_closedBall _ _;
    have := h_compact.elim_nhds_subcover ( fun x => Metric.ball x ( r / 2 ) ) ( fun x hx => Metric.ball_mem_nhds _ ( half_pos hr₀ ) );
    exact ⟨ this.choose, fun x hx => by simpa [ dist_eq_norm ] using this.choose_spec.2 ( mem_closedBall_zero_iff.mpr ( hR x hx ) ) ⟩;
  -- Since S is bounded, each ball of radius r/2 can contain at most one element of Λ.
  have h_ball : ∀ y ∈ T, Set.Finite {x ∈ Λ | ‖x - y‖ < r / 2} := by
    intro y hy
    have h_ball : ∀ x ∈ Λ, ∀ z ∈ Λ, ‖x - y‖ < r / 2 → ‖z - y‖ < r / 2 → x = z := by
      intro x hx z hz hx' hz'; specialize hr x z hx hz; contrapose! hr;
      exact ⟨ hr, by rw [ show x - z = ( x - y ) - ( z - y ) by abel1 ] ; exact lt_of_le_of_lt ( norm_sub_le _ _ ) ( by linarith ) ⟩;
    by_cases h : ∃ x ∈ Λ, ‖x - y‖ < r / 2;
    · exact Set.Finite.subset ( Set.finite_singleton h.choose ) fun x hx => h_ball x hx.1 h.choose h.choose_spec.1 hx.2 h.choose_spec.2;
    · exact Set.finite_empty.subset fun x hx => h ⟨ x, hx.1, hx.2 ⟩;
  exact h_inf <| Set.Finite.subset ( Set.Finite.biUnion ( Finset.finite_toSet T ) h_ball ) fun x hx => by obtain ⟨ y, hy₁, hy₂ ⟩ := hT x hx.2; aesop;

theorem extracted_1_fixed {d : ℕ} {X : Set (EuclideanSpace ℝ (Fin d))}
  {Λ : Submodule ℤ (EuclideanSpace ℝ (Fin d))} [DiscreteTopology ↥Λ] [IsZLattice ℝ Λ]
  (hX : X ⊆ Λ) :
  let bℤ := (Module.Free.chooseBasis ℤ ↥Λ).reindex (ZLattice.basis_index_equiv Λ);
  let bℝ := Basis.ofZLatticeBasis ℝ Λ bℤ;
  let D := {m | ∀ (i : Fin d), (bℝ.repr m) i ∈ Set.Ico (-1) 1};
  Finite ↑(X ∩ D) := by
    -- Since D is bounded, its intersection with X is finite.
    have h_finite : Set.Finite (Λ ∩ {m : EuclideanSpace ℝ (Fin d) | ∀ i, (Module.Basis.repr (Module.Basis.ofZLatticeBasis ℝ Λ (Module.Free.chooseBasis ℤ Λ |> Basis.reindex <| ZLattice.basis_index_equiv Λ)) m) i ∈ Set.Ico (-1) 1}) := by
      -- Apply the fact that a discrete subset of a bounded set is finite.
      apply lattice_inter_bounded_finite;
      exact?;
    exact Set.Finite.to_subtype <| h_finite.subset fun x hx => ⟨ hX hx.1, hx.2 ⟩
```

### PR DESCRIPTION
**Pull request by Robby955**
extracted_1 was false for arbitrary X (X = univ makes X ∩ D the infinite coordinate box D, per
  the #218 counterexample). This restates it with the hypothesis X ⊆ Λ and proves X ∩ D finite by intersecting with the lattice and applying ZSpan.setFinite_inter to the
  bounded box D. The module builds and #print axioms extracted_1 is clean. Closes #218.

### CODE REVIEW

File: SpherePacking/ForMathlib/InvPowSummability.lean [hunk 1]
```diff
@@ -222,15 +222,47 @@ open ZLattice ZSpan
...
+    _ ≤ ∑ i, ‖b.repr x i • b i‖ := norm_sum_le _ _
+    _ = ∑ i, ‖b.repr x i‖ * ‖b i‖ := by simp_rw [norm_smul]
+    _ ≤ ∑ i, ‖b i‖ := by
+      refine Finset.sum_le_sum fun i _ ↦ ?_
+      have hi := hx i
+      rw [Set.mem_Ico] at hi
+      have hcoord : ‖b.repr x i‖ ≤ 1 := by
+        rw [Real.norm_eq_abs]
+        exact abs_le.mpr ⟨by linarith, le_of_lt hi.2⟩
+      calc
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ForMathlib/InvPowSummability.lean]: I wonder if this really needs to be nested or can be combined with the main calc steps in some way

**Comment by thefundamentaltheor3m** [comment]
Hi! Welcome to the Sphere Packing Project. Thank you very much for your contribution!

I'm sorry I couldn't leave more detailed comments or explicit suggestions: it'll be a minute until I can access my laptop conveniently. One small remark is that I think your code can be golfed a bit, beyond just the ways I've suggested in my comments.

Once again, thank you and welcome to the project!

**Comment by Robby955** [comment]
Hi @thefundamentaltheor3m, not a worry, thank you for the comment! I haven't looked at this in a few days either, so it will be good for me now to circle back on this.

Rob
